US08735426B2
Step 3: Synthesis of ethyl 2-(4-amino-3-fluorophenyl)-2-cyclohexylacetate
Ethyl 2-cyclohexyl-2-(3-fluoro-4-nitrophenyl)acetate was dissolved in a 1:1 mixture of EtOH and EA (420 mL) and hydrogenation was carried out in an H-cube (1 bar, 25° C., 1 mL/min and 0.25 mol/L). Following removal of the solvent and drying, 5 g of the desired product were obtained (quantitative conversion).

reactant | Ethyl 2-cyclohexyl-2-(3-fluoro-4-nitrophenyl)acetate | C1(CCCCC1)C(C(=O)OCC)C1=CC(=C(C=C1)[N+](=O)[O-])F | C16H20FNO4
solvent | EtOH | CCO | C2H6O
solvent | EA | 420 mL | CC(OCC)=O | C4H8O2
product | ethyl 2-(4-amino-3-fluorophenyl)-2-cyclohexylacetate | 5 g | NC1=C(C=C(C=C1)C(C(=O)OCC)C1CCCCC1)F | C16H22FNO2
